US05879894
p-N,N-dimethylaminoethoxy 4-iodobenzene hydrogen chloride (11 g, 33.6 mmol) was dissolved in 300 ml of water. The solution was neutralized with NaOH and saturated with NaCl. The mixture was then extracted with toluene (100 ml×4) and the combined extract was washed with brine and dried over MgSO4. The solution was filtered and evaporated to give 6.5 g of p-N,N-dimethylaminoethoxy 4-iodobenzene.(yield 66.5%). 1H NMR (CDCl3): δppm 2.32 (6H,s), 2.71 (2H, t, J=7.2 Hz), 4.01 (2H,t,J=7.2 Hz), 6.69 (2H,d,J=8.0 Hz), 7.53 (2H,d,J=8.0 Hz).

reactant | p-N,N-dimethylaminoethoxy 4-iodobenzene hydrogen chloride | 33.6 mmol, 11 g | Cl.CN(C)CCOC1(CC=CC=C1)I
reactant | NaOH | [OH-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | water | 300 ml | O | H2O
product | p-N,N-dimethylaminoethoxy 4-iodobenzene | 6.5 g, yield 66.5% | CN(C)CCOC1(CC=CC=C1)I | C10H16INO
